US07323567B2
h) tert-Butyl [2-(3,4-dimethoxyphenyl)ethyl]{3-[2′-(2-methoxyphenyl)-7′, 9′-dioxo-1′,9′-dihydrospiro[cyclohexane-1,6′-imidazo[4,5-h]isoquinolin]-8′(7′H)-yl]propyl}carbamate
A solution of tert-butyl [2-(3,4-dimethoxyphenyl)ethyl]{3-[2-(2-methoxyphenyl)-7,9-dioxo-1,6,7,9-tetrahydro-8H-imidazo[4,5-h]isoquinolin-8-yl]propyl}carbamate (100.0 mg, 0.159 mmol), 1,3-dibromopropane (43.9 mg, 0.19 mmol) and aqueous 1 N NaOH solution (0.32 mL, 0.32 mmol) in water (1.0 mL) and EtOH (1 mL) was heated at 80° C. for 2 h. The cooled mixture was partitioned between EtOAc and water. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (40-63μ silica gel; hexane:EtOAc 1:1) to yield the title compound (47 mg, 43% yield) as a white foam.

reactant | tert-butyl [2-(3,4-dimethoxyphenyl)ethyl]{3-[2-(2-methoxyphenyl)-7,9-dioxo-1,6,7,9-tetrahydro-8H-imidazo[4,5-h]isoquinolin-8-yl]propyl}carbamate | 0.159 mmol, 100.0 mg | COC=1C=C(C=CC1OC)CCN(C(OC(C)(C)C)=O)CCCN1C(C=2C3=C(C=CC2CC1=O)N=C(N3)C3=C(C=CC=C3)OC)=O | C35H40N4O7
reactant | 1,3-dibromopropane | 0.19 mmol, 43.9 mg | BrCCCBr | C3H6Br2
reactant | NaOH | 0.32 mmol, 1 N, 0.32 mL | [OH-].[Na+]
reactant | EtOH | 1 mL | CCO | C2H6O
solvent | water | 1.0 mL | O | H2O
product | tert-Butyl [2-(3,4-dimethoxyphenyl)ethyl]{3-[2′-(2-methoxyphenyl)-7′, 9′-dioxo-1′,9′-dihydrospiro[cyclohexane-1,6′-imidazo[4,5-h]isoquinolin]-8′(7′H)-yl]propyl}carbamate | 47 mg, 43% yield | COC=1C=C(C=CC1OC)CCN(C(OC(C)(C)C)=O)CCCN1C(C=2C3=C(C=CC2C2(C1=O)CCCCC2)N=C(N3)C3=C(C=CC=C3)OC)=O | C40H48N4O7
